US08357688B2
3.38 g of methyl 3-chloro-2-hydrazine-7-methylquinoxaline-6-carboxylate was dissolved in 30.0 mL of dichloromethane, and 7.09 g of bromo(tripyrrolidin-1-yl)phosphonium hexafluorophosphate and 5.30 mL of triethylamine were added thereto under ice-cooling, followed by stirring at room temperature overnight. A saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by stirring at room temperature for 1 hour. The precipitated solid was collected by filtration and dried under reduced pressure to obtain methyl 3-chloro-7-methyl-2-(2-phenylhydrazino)quinoxaline-6-carboxylate. The obtained methyl 3-chloro-7-methyl-2-(2-phenylhydrazino)quinoxaline-6-carboxylate was suspended in 50.0 mL of tetrahydrofuran, and 1.85 mL of thionyl chloride was added thereto at room temperature, followed by heating and refluxing overnight. The reaction liquid was left to stand at room temperature and concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (chloroform/methanol) to obtain 2.06 g of methyl 4-chloro-8-methyl-1-phenyl[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylate as a brown solid

reactant | methyl 3-chloro-7-methyl-2-(2-phenylhydrazino)quinoxaline-6-carboxylate | ClC=1C(=NC2=CC(=C(C=C2N1)C(=O)OC)C)NNC1=CC=CC=C1 | C17H15ClN4O2
reactant | thionyl chloride | 1.85 mL | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 50.0 mL | O1CCCC1 | C4H8O
product | methyl 4-chloro-8-methyl-1-phenyl[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylate | 2.06 g | ClC=1C=2N(C3=CC(=C(C=C3N1)C(=O)OC)C)C(=NN2)C2=CC=CC=C2 | C18H13ClN4O2
